US04563211
Methyl 2-[[[4-Methoxy-6-(phenoxymethyl)pyrimidin-2-yl]aminocarbonyl]aminosulfonyl]benzoate
To a mixture of 0.23 g (1.0 mmol) of 4-methoxy-6-(phenoxymethyl)-2-pyrimidinamine in 15 ml dry acetonitrile was added 0.48 g (2.0 mmol) o-carbomethoxybenzenesulfonyl isocyanate and stirred at ambient temperature overnight. Ether was added to the suspension of white solids which were then collected by filtration to afford 0.37 g of the title compound, m.p. 178°-180°. NMR (90 MHz, CDCl3 +DMSO-d6): δ 3.91 (s, 3H); 4.02 (s, 3H); 5.20 (s, 2H); 6.69 (s, 1H); 7.0-7.9 (m, 8H); 8.5 (m, 1H); 9.20 (s, NH); 12.9 (s, NH) ppm; IR (nujol) 1725, 1700 cm-1.

reactant | 4-methoxy-6-(phenoxymethyl)-2-pyrimidinamine | 1.0 mmol, 0.23 g | COC1=NC(=NC(=C1)COC1=CC=CC=C1)N | C12H13N3O2
reactant | o-carbomethoxybenzenesulfonyl isocyanate | 2.0 mmol, 0.48 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | Ether | CCOCC | C4H10O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl 2-[[[4-Methoxy-6-(phenoxymethyl)pyrimidin-2-yl]aminocarbonyl]aminosulfonyl]benzoate | 0.37 g | COC1=NC(=NC(=C1)COC1=CC=CC=C1)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C21H20N4O7S
